US03960828
L-asparaginyl-S-benzyl-L-cysteinyl-L-prolyl-L-leucyl-glycinamide
To a solution of S-benzyl-L-cysteinyl-L-prolyl-L-leucyl-glycinamide (0.502 g.) in ethyl acetate (3 ml.) benzyloxycarbonyl-L-asparagine p-nitrophenyl ester (0.387 g., 1.0 mmol) was added and the suspension stirred at room temperature for 48 hr. The precipitate which formed was collected by filtration and washed with ethyl acetate (20 ml.) and ethanol (5 ml.), and then dried. The crude benzyloxycarbonyl-L-asparaginyl-S-benzyl-L-cysteinyl-L-prolyl-L-leucyl-glycinamide was recrystallized from 40% methanol. Yield, 0.718 g. (99%); m.p. 212°- 213.5°; [α]20D -60.5° (c 1, dimethylformamide).

reactant | S-benzyl-L-cysteinyl-L-prolyl-L-leucyl-glycinamide | 0.502 g | C(C1=CC=CC=C1)SC[C@H](N)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N)CCC1 | C23H35N5O4S
reactant | benzyloxycarbonyl-L-asparagine p-nitrophenyl ester | 1.0 mmol, 0.387 g | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O | C18H17N3O7
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | L-asparaginyl-S-benzyl-L-cysteinyl-L-prolyl-L-leucyl-glycinamide | N[C@@H](CC(N)=O)C(=O)N[C@@H](CSCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)N)CCC1 | C27H41N7O6S
